US06407138B1
Into about 923 grams of water was dissolved 150.14 grams of glycine. Next, 57.25 grams of calcium oxide, which was about 70% calcium by weight, was added. The solution was continually stirred until all of the calcium oxide was dissolved. This took about 15 minutes. No heat was applied for this particular reaction, though heat could optionally be used in this or other examples. The resulting reaction formed a calcium bisglycinate chelate or complex and water, i.e., the hydrogen ions were removed from the glycine and the oxygen was removed from the calcium oxide.

reactant | glycine | 150.14 grams | NCC(=O)O | C2H5NO2
reactant | calcium oxide | 57.25 grams | [O-2].[Ca+2]
reactant | calcium | [Ca] | Ca
solvent | water | O | H2O
solvent | water | about 923 grams | O | H2O
product | calcium bisglycinate | NCC(=O)[O-].NCC(=O)[O-].[Ca+2] | InChI=1S/2C2H5NO2.Ca/c2*3-1-2(4)5;/h2*1,3H2,(H,4,5);/q;;+2/p-2
